US05294618
Step 4: cis-3-Butyl-1,2,3,4,4a,5,6,10b-octahydrobenz[f]isoquinoline hydrochloride
A mixture of 0.153 g (0.55 mmol) of 3-butyl-1,2,3,4,5,6-hexahydro-benz[f]isoquinoline hydrochloride and 0.080 g of platinum (iv) oxide in 20 ml of ethanol was hydrogenated at 50 p.s.i. overnight. The mixture was filtered and evaporated in vacuo to yield a white gum. Trituration with ether gave the title product as a white solid. NMR δ(D2O) 0.95 (3H, t), 1.35 (3H, m), 1.6-2.2 (6H, m), 2.25-3.85 (11H, m), 7.2 (4H, m). m/z (CI+, NH3) 244 (M+H)+.

reactant | 3-butyl-1,2,3,4,5,6-hexahydro-benz[f]isoquinoline hydrochloride | 0.55 mmol, 0.153 g | Cl.C(CCC)N1CC=2CCC3=C(C2CC1)C=CC=C3
reactant | ether | CCOCC | C4H10O
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | platinum (iv) oxide | 0.080 g | [Pt](=O)=O
product | cis-3-Butyl-1,2,3,4,4a,5,6,10b-octahydrobenz[f]isoquinoline hydrochloride | Cl.C(CCC)N1C[C@H]2CCC3=C([C@H]2CC1)C=CC=C3 | InChI=1S/C17H25N.ClH/c1-2-3-11-18-12-10-17-15(13-18)9-8-14-6-4-5-7-16(14)17;/h4-7,15,17H,2-3,8-13H2,1H3;1H/t15-,17+;/m1./s1
